US06387911B1
2-(Azidomethyl)-ethylthiobenzene
To a stirred solution of 2-(ethylthio)benzyl alcohol (3.98 g, 23.6 mmol) in THF (48 mL) at 0° C. under Ar was added DPPA (6.1 mL, 28.4 mmol) followed by DBU (4.0 mL, 26.0 mmol). The reaction was allowed to warm to room temperature and stirred for 2 days. The solution was concentrated to an oil, which was taken up in EtOAc, and washed successively with 10% aqueous citric acid, saturated aqueous NaHCO3 solution and brine. The organic layer was dried over Na2SO4 and concentrated to an oil which was purified by silica gel chromatography (gradient elution with 100% hexanes to 5% EtOAc-hexanes). Concentration of the product fractions at reduced pressure afforded a pale yellow oil which was dried on a high vacuum line overnight to afford the title compound:

reactant | 2-(ethylthio)benzyl alcohol | 23.6 mmol, 3.98 g | C(C)SC1=C(CO)C=CC=C1 | C9H12OS
reactant | DPPA | 28.4 mmol, 6.1 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 26.0 mmol, 4.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 48 mL | C1CCOC1 | C4H8O
product | 2-(Azidomethyl)-ethylthiobenzene | N(=[N+]=[N-])CC1=C(C=CC=C1)SCC | C9H11N3S
